US05120841
Chloromethyl Cyclohexyl Carbonate
A solution of 3.0 g of cyclohexanol and 2.4 ml of pyridine in 30 ml of methylene chloride is cooled to -78° C. and, with stirring, 2.4 ml of chloromethyl chloroformate is added dropwise to the solution. After completion of addition, a cold bath is removed. The mixture is stirred at room temperature for 16 hours, washed with three 30-ml portions of saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. The solvent is then distilled off under reduced pressure to give 4.5 g of colorless oil, which is crystallized from ligroine giving the title compound as colorless crystals melting at 36°-37° C.

reactant | cyclohexanol | 3.0 g | C1(CCCCC1)O | C6H12O
reactant | pyridine | 2.4 ml | N1=CC=CC=C1 | C5H5N
reactant | chloromethyl chloroformate | 2.4 ml | ClC(=O)OCCl | C2H2Cl2O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | Chloromethyl Cyclohexyl Carbonate | 4.5 g | C(OCCl)(OC1CCCCC1)=O | C8H13ClO3
